US06916819B2
3) Preparation of 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid ethyl ester
A mixture of 1H-Imidazole-2-carbothioic acid amide (200 mg, 1.57 mmol) and Ethyl bromopyruvate (340 mg, 1.57 mmol) is heated at 75° C. for about 5 hours. After the volatiles are evaporated in vacuo, the residue is partitioned between Ethyl acetate (40 mL) and aqueous NaHCO3 (10 ML). The organic layer is separated, washed with water, dried and concentrated. The residue is purified on a silica gel column with 3% MeOH in CH2Cl2 as eluent to give 200 mg of the titled compound. 1H NMR (CDCl3): δ 8.15 (s, 1H), 7.20 (br, 1H), 7.10 (br, 1H), 4.33 (q, 2H), 1.23 (t, 3H). LRMS calcd 223, found 224 (MH+).

reactant | 1H-Imidazole-2-carbothioic acid amide | 1.57 mmol, 200 mg | N1C(=NC=C1)C(N)=S | C4H5N3S
reactant | Ethyl bromopyruvate | 1.57 mmol, 340 mg | BrCC(C(=O)OCC)=O | C5H7BrO3
product | 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)C=1N=C(SC1)C=1NC=CN1 | C9H9N3O2S
